### PR TITLE
`arrayAsSlice` builtin

### PR DESCRIPTION
**Pull request by mpenciak**
Last couple fixes I've run into:
* Add `uShr` and `uShl` builtin support to `steps` automation.
* Fix the type signature of `uShr_intro` (this was a nasty bug to track down)
* One last builtin that's already implemented [here](https://github.com/reilabs/lampe/blob/b9f946d00b4020c29c26ba9fd2c848f26377c227/Lampe/Lampe/Builtin/Array.lean#L115-L118) but didn't get added to the list in the extractor.

### CODE REVIEW

File: Lampe/Lampe/Hoare/Builtins.lean [hunk 1]
```diff
@@ -215,7 +215,7 @@ theorem uShl_intro : STHoarePureBuiltin p Γ Builtin.uShl (by tauto) h![a, b] :=
   apply pureBuiltin_intro_consequence <;> try tauto
   tauto
 
-theorem uShr_intro : STHoarePureBuiltin p Γ Builtin.uShl (by tauto) h![a, b] := by
+theorem uShr_intro : STHoarePureBuiltin p Γ Builtin.uShr (by tauto) h![a, b] := by
```
Comment (utkn) [inline Lampe/Lampe/Hoare/Builtins.lean:218]: Ouff that's annoying

**Review by utkn — APPROVED** [review]
